US08604015B2
Quinuclidine-3-carboxylic acid hydrochloride (0.1 g, 0.52 mmol), EDC (150 mg, 0.78 mmol), and HOBT (120 mg, 0.78 mmol) were dissolved in dry THF (3 ml). (2-Chlorophenyl)(4-chlorophenyl)methanol (145 mg, 0.57 mmol) was dissolved in dry THF (2 ml) and then added to the reaction mixture. Triethylamine (253 μl, 1.83 mmol) was added, and the resulting reaction was stirred at room temperature overnight. The mixture was evaporated, and the crude was taken up with EtOAc and washed with water and brine. The organic phase was separated, dried (sodium sulfate), filtered, and evaporated under vacuum. The crude was purified by flash chromatography (DCM/MeOH=95/5) to afford (2-chlorophenyl)(4-chlorophenyl)methyl quinuclidine-3-carboxylate (40 mg, mixture of diastereoisomers). The compound was used as such in the next step.

reactant | Quinuclidine-3-carboxylic acid hydrochloride | 0.52 mmol, 0.1 g | Cl.N12CC(C(CC1)CC2)C(=O)O
reactant | EDC | 0.78 mmol, 150 mg
reactant | HOBT | 0.78 mmol, 120 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (2-Chlorophenyl)(4-chlorophenyl)methanol | 0.57 mmol, 145 mg | ClC1=C(C=CC=C1)C(O)C1=CC=C(C=C1)Cl | C13H10Cl2O
reactant | Triethylamine | 1.83 mmol, 253 μl | C(C)N(CC)CC | C6H15N
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (2-chlorophenyl)(4-chlorophenyl)methyl quinuclidine-3-carboxylate | 40 mg | N12CC(C(CC1)CC2)C(=O)OC(C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl | C21H21Cl2NO2
